US07227023B2
N-[3-(5-fluoro-1H-indol-3-yl)propyl]-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine (“Compound 1”)
A solution of 2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine (intermediate 1a) (0.68 g, 3.4 mmol), 3-(3-bromopropyl)-5-fluoro-1H-indole (0.58 g, 2.26 mmol), and triethylamine (0.63 mL, 4.52 mmol) in anhydrous dimethylsulfoxide (40 mL) was stirred at 80° C. for 12 hrs. The reaction mixture was poured into ice-H2O and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. Chromatography (5% MeOH/CH2Cl2) afforded 0.54 g (64%) of product as a brown oil. It was converted to the HCl salt by dissolution in ethyl acetate and addition of 1M HCl/Et2O solution (2.4 eq) to generate N-[3-(5-fluoro-1H-indol-3-yl)propyl]-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine bis-hydrochloride salt as a light brown solid: mp>180° C. MS ESI m/z 376 [M+H]+. Elemental Analysis for C23H22FN3O·2.00 HCl·0.25 H2O; Calculated: C, 61.00; H, 5.45; N, 9.28. Found: C, 61.02; H, 5.66; N, 9.03.

reactant | HCl | Cl | ClH
reactant | HCl Et2O | 1M, 2.4 eq | Cl.CCOCC
reactant | N-[3-(5-fluoro-1H-indol-3-yl)propyl]-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine bis-hydrochloride salt | Cl.Cl.FC=1C=C2C(=CNC2=CC1)CCCNC1CC2=C3C=CC=NC3=CC=C2OC1
reactant | H2O | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-(5-fluoro-1H-indol-3-yl)propyl]-2,3-dihydro-1H-pyrano[3,2-f]quinolin-2-amine | FC=1C=C2C(=CNC2=CC1)CCCNC1CC2=C3C=CC=NC3=CC=C2OC1 | C23H22FN3O
